US04472433
A mixture of 2-oxo-7-(2-chloroanilino)indoline (5 g.), sodium hydroxide (1.25 g.), dioxane (30 ml.) and water (60 ml.) was refluxed under heating for 53 hours with stirring. After cooling, the reaction mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was dissolved in water (50 ml.), washed with ethyl acetate, adjusted to pH 4 to 5 with 5% sulfuric acid and then extracted with ethyl acetate (150 ml.). The extract was evaporated under reduced pressure and the residue was subjected to column chromatography on silica gel (60 g.) and eluted with ethyl acetate to give 2-[2-amino-3-(2-chloroanilino)phenyl]acetic acid (2.4 g.). mp 230° to 232° C.

reactant | 2-oxo-7-(2-chloroanilino)indoline | 5 g | O=C1NC2=C(C=CC=C2C1)NC1=C(C=CC=C1)Cl | C14H11ClN2O
reactant | sodium hydroxide | 1.25 g | [OH-].[Na+]
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 60 ml | O | H2O
product | 2-[2-amino-3-(2-chloroanilino)phenyl]acetic acid | 2.4 g | NC1=C(C=CC=C1NC1=C(C=CC=C1)Cl)CC(=O)O | C14H13ClN2O2
